US08492582B2
Potassium carbonate (0.51 g) and methoxymethyl chloride (0.23 mL) were sequentially added to an acetone (9.0 mL) suspension of tert-butyl 2-(2-hydroxy-5-methylbenzamido)-4-phenylbenzoate (0.60 g), followed by stirring at room temperature for 1 hour and 30 minutes. Potassium carbonate (0.21 g) and methoxymethyl chloride (0.11 mL) were sequentially added to the reaction mixture, followed by stirring at room temperature for 2 hours. Potassium carbonate (0.51 g) and methoxymethyl chloride (0.23 mL) were sequentially added to the reaction mixture, followed by stirring at room temperature for 2 hours and then heating to reflux for 20 minutes. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-80% hexane/ethyl acetate] to obtain 0.64 g of tert-butyl 2-(2-(methoxymethoxy)-5-methylbenzamido)-4-phenylbenzoate.

reactant | Potassium carbonate | 0.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxymethyl chloride | 0.23 mL | COCCl | C2H5ClO
reactant | acetone | 9.0 mL | CC(=O)C | C3H6O
reactant | tert-butyl 2-(2-hydroxy-5-methylbenzamido)-4-phenylbenzoate | 0.60 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C | C25H25NO4
reactant | Potassium carbonate | 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxymethyl chloride | 0.11 mL | COCCl | C2H5ClO
reactant | Potassium carbonate | 0.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxymethyl chloride | 0.23 mL | COCCl | C2H5ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl 2-(2-(methoxymethoxy)-5-methylbenzamido)-4-phenylbenzoate | 0.64 g | COCOC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C | C27H29NO5
